US06498174B1
Intermediate 16: 1 (phenyl)-1,3-pentanedione
The title compound was prepared according to Popio, V. V. et al. Synthesis (March 1991), pp 195-197. To a stirred suspension of NaH (1.2 g, 50 mmol) and ethyl propionate (5.73 mL. 50 mmol) in 20 mL THF at 20° C. was added EtOH (2 drops), acetophenone (3.0 g, 25 mmol) in 20 mL of THF, and dibenzo-18-crown-6 (150 mg, 0.4 mmol) in 20 mL of THF. Stirred for 30 min, then at reflux for 1 hr. Cooled (0° C.), then added 25 mL of 10% H2SO4 solution and the aqueous was extracted with Et2O. The organics were washed with H2O, aqueous Na2CO3, and brine. The solution was dried over Na2SO4 and concentrated. Purification by silica gel chromatography (1% to 10% EtOAc in hexanes) gave 4.0 g of Intermediate 16 as a thin oil. 1H NMR indicated an ˜10:1 mixture of tautomers favoring the enol form: 1H NMR (400 MHz, CDCl3, enol form) δ7.87 (m, 2H), 7.52-7.4 (m, 3H), 6.17 (s, 1H), 2.47 (q, 2H, J=7.5), 1.21 (t, 3H, J=7.5)

reactant | NaH | 50 mmol, 1.2 g | [H-].[Na+]
reactant | ethyl propionate | 50 mmol, 5.73 mL | C(CC)(=O)OCC | C5H10O2
reactant | acetophenone | 25 mmol, 3.0 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | H2SO4 | 25 mL | OS(=O)(=O)O | H2O4S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | EtOH | 2 drops | CCO | C2H6O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | dibenzo-18-crown-6 | 0.4 mmol, 150 mg | C1COC2=CC=CC=C2OCCOCCOC3=CC=CC=C3OCCO1 | C20H24O6
product | (phenyl)-1,3-pentanedione | 4.0 g | C1(=CC=CC=C1)C(CC(CC)=O)=O | C11H12O2
